US09278973B2
To a solution of 3-(4-chlorophenyl)-1H-1,2,4-triazol-5-amine (50 mg, 0.26 mmol) in diphenyether (2 ml) was added TsOH (2.2 mg, 0.01 mmol) and ethyl 3-(benzo[d][1,3]dioxol-5-yl)-3-oxopropanoate (81 mg, 0.34 mmol). After stirring 2 h at 170° C., the reaction was quenched by the addition of hexane (5 ml), the product was collected by filtration and washed with methanol (10 ml) and dried in an oven under reduced pressure to give 5-(benzo[d][1,3]dioxol-5-yl)-2-(4-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a off-white solid (23.1 mg, 24%).

reactant | 3-(4-chlorophenyl)-1H-1,2,4-triazol-5-amine | 0.26 mmol, 50 mg | ClC1=CC=C(C=C1)C1=NNC(=N1)N | C8H7ClN4
reactant | TsOH | 0.01 mmol, 2.2 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethyl 3-(benzo[d][1,3]dioxol-5-yl)-3-oxopropanoate | 0.34 mmol, 81 mg | O1COC2=C1C=CC(=C2)C(CC(=O)OCC)=O | C12H12O5
solvent | diphenyether | 2 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-(benzo[d][1,3]dioxol-5-yl)-2-(4-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 23.1 mg, 24% | O1COC2=C1C=CC(=C2)C=2NC=1N(C(C2)=O)N=C(N1)C1=CC=C(C=C1)Cl | C18H11ClN4O3
